US06180636B2
136.4 mg (0.50 mmol) of 4-(3-chloroanilino)-6-formyl-7H-pyrrolo[2,3-d] pyrimidine and 67 μl of N-methylpiperazine in 5 ml of methanol, 15 ml of DMPU and 63 μl of acetic acid are hydrogenated at 50° C. in the presence of 30 mg of Raney nickel. The catalyst is filtered off, the filtrate is evaporated and the residue is dissolved in ethyl acetate and satd NaHCO3 solution. The aqueous phase separated off is extracted twice with ethyl acetate; the organic phases are washed with satd NaHCO3 solution, 4 times with water and brine, dried over Na2SO4 and evaporated. Column chromatography (SiO2, CH2Cl2/methanol=7:2) and stirring in diethyl ether yields 4-(3-chloroanilino)-6-[(4-methylpiperazin-1-yl)methyl]-7H-pyrrolo[2,3-d]pyrimidine; HPLC: tRet(Grad20)=7.4; TLC-Rf=0.16 (CH2Cl2/methanol=7:3); FAB-MS: (M+H)+=357.

reactant | 4-(3-chloroanilino)-6-formyl-7H-pyrrolo[2,3-d] pyrimidine | 0.50 mmol, 136.4 mg | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C=O)C=CC1 | C13H9ClN4O
reactant | N-methylpiperazine | 67 μl | CN1CCNCC1 | C5H12N2
solvent | methanol | 5 ml | CO | CH4O
solvent | DMPU | 15 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | acetic acid | 63 μl | C(C)(=O)O | C2H4O2
catalyst | Raney nickel | 30 mg | [Ni] | Ni
product | 4-(3-chloroanilino)-6-[(4-methylpiperazin-1-yl)methyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)CN3CCN(CC3)C)C=CC1 | C18H21ClN6
